US08536185B2
Preparation of 3-(4-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)pyridazine
The title compound is prepared in a similar manner described above using Buchwald-Hartwig amination conditions or as described in PCT International Application 2006/058338, 1 Jun. 2006. In this case, a solution consisting of 2-phenyl-5-(2-(piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine and 6-chloropyridazine 1-oxide (preparation of this reagent can be found in PCT International Application 2007/106670, 20 Sep. 2007 and Chemical and Pharmaceutical Bulletin, 1963, 11, 261-263) in dimethylsulfoxide is heated at 80° C. for 18 hours. The reaction mixture is cooled, diluted with water and the organic material is extracted with ethyl acetate. The organic phase is washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue is chromatographed on silica to afford the title compound.

reactant | 2-phenyl-5-(2-(piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CCNCC1 | C18H19N5
reactant | 6-chloropyridazine 1-oxide | ClC1=CC=CN=[N+]1[O-] | C4H3ClN2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-(4-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)pyridazine | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CCN(CC1)C=1N=NC=CC1 | C22H21N7
